US09169254B2
Trifluoroacetic anhydride (850 μL, 6.12 mmol) was added to a solution of 4-bromoindole (1.00 g, 5.10 mmol) in N,N-dimethylformamide (2.0 mL), and the mixture was stirred at room temperature for 1.5 hours. Water was added, followed by extraction with a mixed solvent of ethyl acetate:hexane=4:1. The organic layers were combined, washed with a saturated aqueous sodium bicarbonate solution, water and saturated brine and dried over sodium sulfate, and the solvent was then distilled off. The residue was purified by silica gel column chromatography to give 1-(4-bromo-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (353 mg, 24%).

reactant | Trifluoroacetic anhydride | 6.12 mmol, 850 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-bromoindole | 5.10 mmol, 1.00 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 1-(4-bromo-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 353 mg, 24% | BrC1=C2C(=CNC2=CC=C1)C(C(F)(F)F)=O | C10H5BrF3NO
